Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right sided abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ p/w right sided abd pain. Reports having PNA for the past 
week.  He was started on azithromycin this past ___. 
Initially coughing a lot but less frequently the last two days. 
Today developed acute onset abd pain after coughing. The pain is 
sharp, along his right abdomen, continuous, and non radiating. 
No nausea or vomiting. He is passing gas and has tolerated PO 
today. Pain is positional and worse when he is moving or tries 
to sit
down. On imaging he was found to have a rectus sheath hematoma. 
Surgery is consulted for further management. He denies any 
recent trauma or a history of bleeding disorders.
 
Past Medical History:
Pneumonia, HTN
Denies ___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION

VS: 97.8    89   160/100   18   98% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, non distended,TTP along right side, mild guarding, 
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused

PHYSICAL EXAM ON DISCHARGE

VS: 98.3   70   130/88   18   96% RA
GEN: no acute distress, alert and oriented x3
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, non distended, mildly tender to palpation on the 
right side, normoactive bowel sounds, no palpable masses
Extremities: No ___ edema, ___ warm and well perfused, pulses 
present
 
Pertinent Results:
LAB TEST

___ 06:20AM BLOOD WBC-9.4 RBC-4.44* Hgb-11.7* Hct-36.3* 
MCV-82 MCH-26.4 MCHC-32.2 RDW-14.1 RDWSD-40.9 Plt ___
___ 04:35PM BLOOD WBC-8.8 RBC-5.07 Hgb-13.0* Hct-40.6 
MCV-80* MCH-25.6* MCHC-32.0 RDW-13.9 RDWSD-39.8 Plt ___
___ 04:35PM BLOOD Neuts-76.5* Lymphs-12.1* Monos-7.4 
Eos-2.6 Baso-0.6 Im ___ AbsNeut-6.75* AbsLymp-1.07* 
AbsMono-0.65 AbsEos-0.23 AbsBaso-0.05
___ 06:20AM BLOOD ___ PTT-32.0 ___
___ 06:20AM BLOOD Plt ___
___ 04:35PM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-112* UreaN-15 Creat-0.9 Na-135 
K-3.9 Cl-96 HCO3-30 AnGap-13
___ 04:35PM BLOOD Glucose-96 UreaN-17 Creat-0.9 Na-138 
K-4.2 Cl-98 HCO3-28 AnGap-16
___ 04:35PM BLOOD ALT-40 AST-42* AlkPhos-88 TotBili-0.3 
DirBili-<0.2 IndBili-0.3
___ 06:20AM BLOOD Calcium-8.4 Phos-4.0 Mg-1.___BD-PELVIS W/CONTRAST ___
IMPRESSION:
1. 7.1 x 12.6 x 14.9 cm right rectus sheath hematoma with 
surrounding fat stranding.  No evidence of active extravasation 
on this non-CTA study.
2. Consolidation in the right lower lobe with multiple adjacent 
ground-glass nodules, consistent with patient's known history of 
pneumonia.
3. Hepatic steatosis.
 
Brief Hospital Course:
The patient presented o the ED complaining of right sided abd 
pain. Reports having pneumonia for the past week.  He was 
started on azithromycin this past ___. Initially coughing a 
lot but less frequently the last two days. The day of the 
admission, he developed acute onset abdominal pain after 
coughing. The pain was sharp, along his right abdomen, 
continuous, and non radiating. No nausea or vomiting. He was 
passing gas and has tolerating PO. Pain was positional and worse 
when he is moving or tries to sit down. On imaging he was found 
to have a  7.1 x 12.6 x 14.9 cm right rectus sheath hematoma 
with surrounding fat stranding.  No evidence of active 
extravasation on this non-CTA study. Surgery is consulted for 
further management, and it was decided to admit the patient to 
the surgical ward for observation. After 2 days in the service 
the patient continued to improve and the pain was better 
controlled, and there was no extravasation of blood. He was CV 
stable, pulmonary stable and no signs of infections or DVT. At 
the time of discharge, the patient was doing well, afebrile and 
hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
lisinopril, azithromycin (for known pneumonia)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Azithromycin 500 mg PO Q24H  
3.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectus sheath hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for a 
hematoma of your abdominal muscles after a coughing episode, you 
were admitted for serial abdominal exams and trending of your 
blood levels. You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

*AVOID contact sports and/or any activity that may cause injury 
to your abdominal area for the next ___ weeks.
 
*If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having internal bleeding from your 
liver or spleen injury.
 
*AVOID any blood thinners such as Motrin, Naprosyn, Indocin, 
Aspirin, Coumadin or Plavix for at least ___ days unless 
otherwise instructed by the MD/NP/PA.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___